US08492549B2
(3-Benzo[1,3]dioxol-5-ylpiperidin-1-yl-(R)-2,3-dihydrobenzo[1,4]dioxin-2-ylmethanone
A mixture of (R)-2,3-dihydrobenzo[1,4]dioxine-2-carboxylic acid (167 mg, 0.93 mmol), thionyl chloride (338 μl, 551 mg, 4.63 mmol) and dry toluene was heated at 95° C. for 1.5 h and then evaporated to dryness. Toluene was added and the evaporation was repeated. The evaporation residue was dissolved in DCM (2 ml) and added slowly to a cold solution (0° C.) of 3-benzo[1,3]dioxol-5-yl-piperidine HCl (224 mg, 0.93 mmol) and DIPEA (0.324 ml, 240 mg, 1.85 mmol) in DCM (5 ml). The reaction mixture was stirred for 1 h 45 min at RT. Water was added, layers were separated and the organic phase was washed twice with 1 M HCl and sat. NaHCO3. The organic phase was dried (Na2SO4), filtered and evaporated to give 290 mg of the title compound.

reactant | (R)-2,3-dihydrobenzo[1,4]dioxine-2-carboxylic acid | 0.93 mmol, 167 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)O | C9H8O4
reactant | thionyl chloride | 4.63 mmol, 338 μl, 551 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 3-benzo[1,3]dioxol-5-yl-piperidine HCl | 0.93 mmol, 224 mg | Cl.O1COC2=C1C=CC(=C2)C2CNCCC2
reactant | DIPEA | 1.85 mmol, 0.324 ml, 240 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Benzo[1,3]dioxol-5-ylpiperidin-1-yl-(R)-2,3-dihydrobenzo[1,4]dioxin-2-ylmethanone | 290 mg | O1COC2=C1C=CC(=C2)C2CN(CCC2)C(=O)[C@H]2COC1=C(O2)C=CC=C1 | C21H21NO5
